US06518265B1
tert-Butyl 2-(2-aminoethyl)-1-piperidinecarboxylate
A suspension of 43.0 g of tert-butyl 2-(2-azidoethyl)-1-piperidinecarboxylate and 2.15 g of 5% palladium on carbon in 215 ml of methanol was catalytically hydrogenated at room temperature for 9 hours. After the reaction, the catalyst was filtered off, and the filtrate was concentrated to give 37.2 g of a colorless liquid.

reactant | tert-butyl 2-(2-azidoethyl)-1-piperidinecarboxylate | 43.0 g | N(=[N+]=[N-])CCC1N(CCCC1)C(=O)OC(C)(C)C | C12H22N4O2
catalyst | palladium on carbon | 2.15 g | [Pd] | Pd
solvent | methanol | 215 ml | CO | CH4O
product | tert-Butyl 2-(2-aminoethyl)-1-piperidinecarboxylate | 37.2 g | NCCC1N(CCCC1)C(=O)OC(C)(C)C | C12H24N2O2
